US04929613
3-(4-Bromo-2,5-difluorophenyl)cyclopentylamine hydrochloride.
A solution of 20.3 g (50 mmol) of 2-[3-(4-bromo-2,5-difluorophenyl)cyclopentyl]-1H-isoindole-1,3-(2H)-dione in 100 ml of concentrated hydrochloric acid and 100 ml of ethanol was heated at reflux for 4 hours. The ethanol was allowed to evaporate and the aqueous acid mixture was heated at reflux for 4 additional hours. The solution was filtered through a fiber glass pad to remove some insoluble material and the filtrate was evaporated in vacuo. The residue was triturated with ethanol which was also removed in vacuo to give 13.1 g of the title compound.

reactant | 2-[3-(4-bromo-2,5-difluorophenyl)cyclopentyl]-1H-isoindole-1,3-(2H)-dione | 50 mmol, 20.3 g | BrC1=CC(=C(C=C1F)C1CC(CC1)N1C(C2=CC=CC=C2C1=O)=O)F | C19H14BrF2NO2
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(4-Bromo-2,5-difluorophenyl)cyclopentylamine hydrochloride | 13.1 g | Cl.BrC1=CC(=C(C=C1F)C1CC(CC1)N)F | InChI=1S/C11H12BrF2N.ClH/c12-9-5-10(13)8(4-11(9)14)6-1-2-7(15)3-6;/h4-7H,1-3,15H2;1H
